US06166209
(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-[2-(3H-spiro[isobenzofuran-1,4'-piperidin]-1'-yl)-ethyl]-amine hydrochloride (1:2)
The title compound, m.p. 215° C. and MS: m/e=425.3 (M+H+), was prepared in accordance with the general method of example 1 from 5-amino-10,11-dihydro-5H-dibenzo[a,d]cycloheptene, chloroacetyl chloride, spiro[isobenzofuran-1(3H),4'piperidine] and Hcl.

reactant | 5-amino-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | NC1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C15H15N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | spiro[isobenzofuran-1(3H),4'piperidine] | N1CCC2(CC1)OCC1=CC=CC=C12 | C12H15NO
product | (10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-yl)-[2-(3H-spiro[isobenzofuran-1,4'-piperidin]-1'-yl)-ethyl]-amine hydrochloride | Cl.C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)NCCN3CCC2(CC3)OCC3=CC=CC=C32 | InChI=1S/C29H32N2O.ClH/c1-4-10-25-22(7-1)13-14-23-8-2-5-11-26(23)28(25)30-17-20-31-18-15-29(16-19-31)27-12-6-3-9-24(27)21-32-29;/h1-12,28,30H,13-21H2;1H
